US09428477B2
Production of 1-((E)-2-Decenoyl)-4-methylpiperidine [Compound 6]
The same procedures as in Example 2 were carried out using (E)-2-decenoic acid and 4-methylpiperidine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
product | 1-((E)-2-Decenoyl)-4-methylpiperidine | C(\C=C\CCCCCCC)(=O)N1CCC(CC1)C | C16H29NO
